US06660753B2
A mixture of 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole (269.4 mg, 0.78 mmol) in dichloromethane (15 mL) was treated with 2M oxalyl chloride (0.90 mL, 1.8 mmol, dichloromethane) and a catalytic amount N,N-dimethylformaide. The resulting mixture was stirred at ambient temperature for 1.5 hours and the solvent and excess oxalyl chloride removed, in vacuo. The acid chloride in dichloromethane (5 mL) was then treated with solid ammonium chloride (450 mg, 8.4 mmol) and pyridine (1.5 mL, 18.5 mmol). The mixture was stirred vigorously at ambient temperature for 15 hours, and then treated with 2M ammonia (5 mL, 10 mmol, methanol). The solvent was then removed in vacuo, and the residue treated with water. Collection of the precipitate by filtration afforded crude 3-(5-aminocarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole.

reactant | 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole | 0.78 mmol, 269.4 mg | OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)Br | C14H8BrN3O3
reactant | oxalyl chloride | 1.8 mmol, 2M, 0.90 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium chloride | 8.4 mmol, 450 mg | [Cl-].[NH4+]
reactant | pyridine | 18.5 mmol, 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonia | 10 mmol, 2M, 5 mL | N | H3N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-(5-aminocarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole | NC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)Br | C14H9BrN4O2
